US05739377
2-Methoxypropyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate
The title compound was prepared from methyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate and propylene glycol monomethyl ether, by a procedure analogous to that of Reference Example 10. White powder with mellting point 73°-74° C.

reactant | methyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OC | C18H28O3
reactant | propylene glycol monomethyl ether | COCC(C)O | C4H10O2
product | 2-Methoxypropyl 3-(3,5-di-t-butyl-4-hydroxyphenyl)propionate | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)OCC(C)OC | C21H34O4
